US07414050B2
a) [4-(2-Hydroxy-1-hydroxymethyl-ethyl)-phenyl]-carbamic acid tert-butyl ester
A mixture of 2-(4-amino-phenyl)-propane-1,3-diol (1.6 g, 9.6 mmol, J. Med. Chem., 40(25), 4030-4052, (1997)), di-tert-butyl dicarbonate (BOC)2O (2.30 g, 10.5 mmol), THF (200 mL), water (100 mL) and Na2CO3 (1.12 g, 10.5 mmol) was stirred at RT overnight. The reaction mixture was diluted with EtOAc (200 mL) and satd brine (200 mL). The organic layer was separated and the aq layer was extracted with EtOAc (2×100 mL). The organic layers were combined, dried (Na2SO4) and concentrated. The residue obtained was purified on silica (20-100% EtOAc-hexane) to obtain the title compound (1.2 g, 47%): Mass spectrum (ESI, m/z): Calcd. for C14H21NO4, 290.3 (M+Na). found 290.0.

reactant | 2-(4-amino-phenyl)-propane-1,3-diol | 9.6 mmol, 1.6 g | NC1=CC=C(C=C1)C(CO)CO | C9H13NO2
reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | water | 100 mL | O | H2O
reactant | Na2CO3 | 10.5 mmol, 1.12 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | brine | 200 mL | [Cl-].[Na+].O
product | [4-(2-Hydroxy-1-hydroxymethyl-ethyl)-phenyl]-carbamic acid tert-butyl ester | 1.2 g, 47% | C(C)(C)(C)OC(NC1=CC=C(C=C1)C(CO)CO)=O | C14H21NO4
